US05916899
Placed in a 20 ml bottle were one of the small (0.241 g of mixed amino acid resin) tea-bags and one of the control (18 micromoles of glycine) tea-bags. The two tea-bags were treated with a solution of benzaldehyde (0.508 ml, 5 mmoles) and anhydrous trimethylorthoformate (1.094 ml, 10 mmoles) in anhydrous DMF (9 ml). After shaking for 3 hrs the packet was washed with anhydrous DMF (3×8 ml). A solution of homophthalic anhydride (801 mg, 5 mmoles) and triethylamine (0.044 ml, 0.3 mmoles) was prepared in chloroform (10 ml) and added to the tea-bag. After shaking at room temperature for 15.5 hrs the packet was washed with DMF (6×30 ml) and DCM (4×30 ml) and dried at room temperature. The remaining 37 tea-bags of mixed resin were each paired with one glycine control tea-bag and reacted as above in 37 separate reactions with the following aldehydes: 1,4-benzodioxan-6-carboxaldehyde, 1-methylindole-3-carboxaldehyde, 2,3-difluorobenzaldehyde, 2-bromobenzaldehyde, 2-chloro-5-nitrobenzaldehyde, 2-furaldehyde, 2-imidazolecarboxaldehyde, 2-naphthaldehyde, 2-pyridinecarboxaldehyde, 2-thiophenecarboxaldehyde, 3,4-dichlorobenzaldehyde, 3,5-bis(trifluoromethyl) benzaldehyde, 3,5-dihydroxybenzaldehyde, 3,5-dimethoxybenzaldehyde, 3,5-dimethyl-4-hydroxybenzaldehyde, 3-(4-methoxyphenoxy) benzaldehyde, 3-furaldehyde, 3-hydroxybenzaldehyde, 3-methyl-4-methoxybenzaldehyde, 3-methylbenzaldehyde, 3-nitrobenzaldehyde, 3-pyridinecarboxaldehyde, 3-thiophenecarboxaldehyde, 4-(3-dimethylaminopropoxy) benzaldehyde, 4-(dimethylamino)benzaldehyde, 4-(methylthio)benzaldehyde, 4-(trifluoromethyl) benzaldehyde, 4-biphenylcarboxaldehyde, 4-bromo-2-thiophenecarboxaldehyde, 4-cyanobenzaldehyde, 4-methoxy-1-naphthaldehyde, 4-nitrobenzaldehyde, 4-pyridinecarboxaldehyde,5-(hydroxymethyl)-2-furaldehyde, 5-bromo-4-hydroxy-3-methoxybenzaldehyde, 5-nitro-2-furaldehyde and 6-methyl-2-pyridinecarboxaldehyde. The large tea-bag containing 1.204 g (900 micromoles total of mixed amino acids) of resin was reacted with 3,5-dimethoxybenzaldehyde in the same manner, but on a five times larger scale of all reagents and solvents and with no control tea-bag.

reactant | benzaldehyde | 5 mmoles, 0.508 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | trimethylorthoformate | 10 mmoles, 1.094 ml | COC(OC)OC | C4H10O3
reactant | DMF | 9 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | glycine | 18 micromoles | NCC(=O)O | C2H5NO2
catalyst | triethylamine | 0.3 mmoles, 0.044 ml | C(C)N(CC)CC | C6H15N
product | homophthalic anhydride | 5 mmoles, 801 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
